### PR TITLE
[Merged by Bors] - feat(Analysis/Distribution/ContDiffMapSupportedIn): add withSeminorms statement

### PR DESCRIPTION
**Pull request by luigi-massacci**
Add `withSeminorms` instance to `ContDiffMapSupportedIn`, where the seminorm familiy is given by the sup-norm on the i-th derivative. 

Co-authored by: @ADedecker 

---

- [x] depends on: #30202 
- [x] depends on: #30201 
- [x] depends on: #30199 
- [x] depends on: #30198 
- [x] depends on: #30197  

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 1]
```diff
@@ -265,14 +265,15 @@ as a `𝕜`-linear map.
...
   toFun f := f
   map_add' _ _ := rfl
   map_smul' _ _ := rfl
 
--- Workaround for simps' automatic name generation: manually specifying names is not supported yet.
-alias toBoundedContinuousFunctionLM_apply := toBoundedContinuousFunctionLM_apply_apply
+@[simp]
+lemma toBoundedContinuousFunctionLM_apply (f : 𝓓^{n}_{K}(E, F)) :
+    toBoundedContinuousFunctionLM 𝕜 f = f :=
+  rfl
```
Comment (ADedecker) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:293]: @grunweg I switched back to a manual simp lemma because the autogenerated one was about equalities of functions where I wanted equalities of `BoundedContinuousFunction`, and `-fullyApplied` version was not applied enough.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 2]
```diff
@@ -486,6 +487,69 @@ theorem continuous_iff_comp_withOrder {X : Type*} [TopologicalSpace X] (φ : X 
...
+
+theorem norm_toBoundedContinuousFunction (f : 𝓓^{n}_{K}(E, F)) :
+    ‖(f : E →ᵇ F)‖ = ContDiffMapSupportedIn.seminorm 𝕜 E F n K 0 f := by
+  simp [BoundedContinuousFunction.norm_eq_iSup_norm,
+    ContDiffMapSupportedIn.seminorm_apply_withOrder]
+
+/-- The inclusion of the space  `𝓓^{n}_{K}(E, F)` into the space `E →ᵇ F` of bounded continuous
+functions as a continuous `𝕜`-linear map. -/
+noncomputable def toBoundedContinuousFunctionCLM : 𝓓^{n}_{K}(E, F) →L[𝕜] E →ᵇ F :=
+  { toLinearMap := toBoundedContinuousFunctionLM 𝕜
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: use `where`? IIRC, has a weak style preference here

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 3]
```diff
@@ -486,6 +487,69 @@ theorem continuous_iff_comp_withOrder {X : Type*} [TopologicalSpace X] (φ : X 
...
+    withSeminorms_iInf fun i ↦ LinearMap.withSeminorms_induced (norm_withSeminorms _ _) _
+  exact this.congr_equiv (Equiv.sigmaUnique _ _).symm
+
+protected theorem withSeminorms' :
+    WithSeminorms (ContDiffMapSupportedIn.seminorm' 𝕜 E F n K) :=
+  (ContDiffMapSupportedIn.withSeminorms 𝕜 E F n K).partial_sups
+
+variable {E F n K}
+
+-- TODO: Once we have `iteratedFDerivWithOrderCLM`, maybe we should restate this lemma
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: We have these now, right? Can you address this TODO (one way or the other), please?

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 4]
```diff
@@ -486,6 +487,69 @@ theorem continuous_iff_comp_withOrder {X : Type*} [TopologicalSpace X] (φ : X 
...
+
+/-- The seminorms on the space `𝓓^{n}_{K}(E, F)` given by sup of the
+`ContDiffMapSupportedIn.seminorm k`for `k ≤ i`. -/
+protected noncomputable def seminorm' (i : ℕ) : Seminorm 𝕜 𝓓^{n}_{K}(E, F) :=
+  (Finset.Iic i).sup (ContDiffMapSupportedIn.seminorm 𝕜 E F n K)
+
+protected theorem withSeminorms :
+    WithSeminorms (ContDiffMapSupportedIn.seminorm 𝕜 E F n K) := by
+  let p : SeminormFamily 𝕜 𝓓^{n}_{K}(E, F) ((_ : ℕ) × Fin 1) :=
+    SeminormFamily.sigma fun i ↦ fun _ ↦
```
Comment (grunweg) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: Does this work?
```suggestion
    SeminormFamily.sigma fun i _ ↦
```

**Review by grunweg — COMMENTED** [review]
Thanks for keeping the queue moving! Here are some first comments.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 3 above)
Comment (ADedecker) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: No, we have the `LinearMap` versions but not the `ContinuousLinearMap` versions.

Comment (grunweg) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: How difficult would it be to add that? (If easy, doing that first might save work in the long run.)

Comment (ADedecker) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: It's not hard but not easy, and is planned for a later PR. The main issue is that proving it will rely on such results.

While writing this, I realized that the correct solution may be to have `seminorm_apply` only make reference to `structureMapCLM` (which we have bundled as a continuous linear map), and then let the user use the relevant API. I've just pushed this change, but maybe it's not ideal in terms of readability... Let me know what you think.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 5]
```diff
@@ -493,6 +507,123 @@ theorem continuous_iff_comp_withOrder {X : Type*} [TopologicalSpace X] (φ : X 
...
+    withSeminorms_iInf fun i ↦ LinearMap.withSeminorms_induced (norm_withSeminorms _ _) _
+  exact this.congr_equiv (Equiv.sigmaUnique _ _).symm
+
+protected theorem withSeminorms' :
+    WithSeminorms (ContDiffMapSupportedIn.seminorm' 𝕜 E F n K) :=
+  (ContDiffMapSupportedIn.withSeminorms 𝕜 E F n K).partial_sups
+
+variable {E F n K}
+
+protected theorem seminorm_apply (i : ℕ) (f : 𝓓^{n}_{K}(E, F)) :
```
Comment (mcdoll) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:554]: Don't you want a variant with `N[𝕜]_{K, n, i} f = ‖iteratedFDeriv ℝ i f‖` for `i ≤ n`?

Comment (ADedecker) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean:554]: The thing is for this to be true you have to bundle `iteratedFDeriv ℝ i f` as a bounded continuous function, which is exactly what `structureMapLM` does. Users can then use [ContDiffMapSupportedIn.structureMapLM_apply_withOrder](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.html#ContDiffMapSupportedIn.structureMapLM_apply_withOrder).

But really I expect that most of the time people will want to use `seminorm_le_iff[_withOrder]` and `norm_iteratedFDeriv_apply_le_seminorm[_withOrder]`.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 6]
```diff
@@ -453,10 +463,13 @@ noncomputable def structureMapCLM (i : ℕ) :
   toLinearMap := structureMapLM 𝕜 n i
   cont := continuous_iInf_dom continuous_induced_dom
 
+-- TODO: Should this be `@[simp]` instead of the one below? I don't want `simp` to
+-- force `WithOrder` variants on people, but maybe this is not a good argument.
```
Comment (j-loreaux) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: I think it's weird to mark only the `⊤` version as `simp`. I would say either with `withOrder` variant, or neither.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 7]
```diff
@@ -493,6 +506,123 @@ theorem continuous_iff_comp_withOrder {X : Type*} [TopologicalSpace X] (φ : X 
...
+variable (E F n K)
+
+/-- The seminorms on the space `𝓓^{n}_{K}(E, F)` given by the sup norm of the iterated derivatives.
+In the scope `Distributions.Seminorm`, we denote them by `N[𝕜; F]_{K, n, i}`
+(or `N[𝕜]_{K, n, i}`), or simply by `N[𝕜; F]_{K, i}` (or `N[𝕜; F]_{K, i}`) when `n = ∞`. -/
+protected noncomputable def seminorm (i : ℕ) : Seminorm 𝕜 𝓓^{n}_{K}(E, F) :=
+  (normSeminorm 𝕜 (E →ᵇ (E [×i]→L[ℝ] F))).comp (structureMapLM 𝕜 n i)
+
+@[inherit_doc ContDiffMapSupportedIn.seminorm]
+scoped[Distributions.Seminorm] notation "N["𝕜"]_{"K","n","i"}" =>
```
Comment (j-loreaux) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: Is there are reason for the nested scope? It doesn't seem too likely that this will cause conflicts or elaboration problems, and I don't think we ever write `open Distributions` (at least, not yet), so you would always need to write `open scoped Distributions Distribution.Seminorm` to get all the notation.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean [hunk 8]
```diff
@@ -493,6 +506,123 @@ theorem continuous_iff_comp_withOrder {X : Type*} [TopologicalSpace X] (φ : X 
...
+
+@[inherit_doc ContDiffMapSupportedIn.seminorm]
+scoped[Distributions.Seminorm] notation "N["𝕜";"F"]_{"K","i"}" =>
+  ContDiffMapSupportedIn.seminorm 𝕜 _ F ⊤ K i
+
+open scoped Distributions.Seminorm
+
+/-- The seminorms on the space `𝓓^{n}_{K}(E, F)` given by sup of the
+`ContDiffMapSupportedIn.seminorm k`for `k ≤ i`. -/
+protected noncomputable def seminorm' (i : ℕ) : Seminorm 𝕜 𝓓^{n}_{K}(E, F) :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: I don't love the `'` name. Is `supSeminorm` too confusing do you think?

**Review by j-loreaux — COMMENTED** [review]
Minor comments only. Ping me again after addressing them and I will likely merge quickly.

File: Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean (hunk 7 above)
Comment (ADedecker) [reply Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.lean]: The thing that worries me is that we may want to have notations for a bunch of other seminorm families, even in distribution theory (e.g [SchwartzMap.seminorm](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Distribution/SchwartzSpace.html#SchwartzMap.seminorm)), so I didn't feel confident to put it in such a generic namespace. 

I'll put it in `Distributions` for now, and add a comment about it.

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
